US07795272B2
A mixture of 200 mg (0.4 mmol) of 3-methyl-5-nitro-4-[5,5,5-trifluoro-4-hydroxy-4-(6-methanesulfonyl-4-methylchroman-4-ylmethyl)pent-1-ynyl]benzonitrile and 375 mg (6.7 mmol) of iron powder in 4 mL of ethanol and 2 mL of acetic acid was warmed at 90° C. After 2 hours, the mixture was cooled and diluted with 50 mL of ethyl acetate and filtered through CELITE® filter aid. The filtrate was washed with three portions of saturated aqueous sodium bicarbonate, dried over sodium sulfate, and concentrated in vacuo to afford 130 mg (68%) of 3-amino-5-methyl-4-[5,5,5-trifluoro-4-hydroxy-4-(6-methanesulfonyl-4-methylchroman-4-ylmethyl)pent-1-ynyl]benzonitrile as a brown oil.

reactant | 3-methyl-5-nitro-4-[5,5,5-trifluoro-4-hydroxy-4-(6-methanesulfonyl-4-methylchroman-4-ylmethyl)pent-1-ynyl]benzonitrile | 0.4 mmol, 200 mg | CC=1C=C(C#N)C=C(C1C#CCC(C(F)(F)F)(CC1(CCOC2=CC=C(C=C12)S(=O)(=O)C)C)O)[N+](=O)[O-] | C25H23F3N2O6S
solvent | ethanol | 4 mL | C(C)O | C2H6O
solvent | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
catalyst | iron | 6.7 mmol, 375 mg | [Fe] | Fe
product | 3-amino-5-methyl-4-[5,5,5-trifluoro-4-hydroxy-4-(6-methanesulfonyl-4-methylchroman-4-ylmethyl)pent-1-ynyl]benzonitrile | 130 mg, 68% | NC=1C=C(C#N)C=C(C1C#CCC(C(F)(F)F)(CC1(CCOC2=CC=C(C=C12)S(=O)(=O)C)C)O)C | C25H25F3N2O4S
